US06117870
8.1 g (20 mmol) of phenylmethyl 1-aminocyclohexanecarboxylate ·p-toluenesulfonate was added to 50 nm of water, and then 4.1 g (20 mmol) of 4-methoxybenzenesulfonylchloride and 50 ml of ethyl acetate was added to the mixture with stirring. After stirring at room temperature, the reaction mixture was put into a separatory funnel and water layer was removed therefrom. Subsequently, organic layer was washed with successive, 10% potassium hydrogensulfate solution, and saturated brine, and then, was dried over anhydrous magnesium sulfate, and the solvent was concentrated under reduced pressure. The obtained crystal was stirred overnight in ether, whereby 4.36 g of phenylmethyl 1-[N-(4-methoxybenzenesulfonyl)amino]cyclohexanecarboxylate was obtained.

reactant | phenylmethyl 1-aminocyclohexanecarboxylate ·p-toluenesulfonate | 20 mmol, 8.1 g | NC1(CCCCC1)C(=O)OCC1=CC=CC=C1.CC=1C=CC(=CC1)S(=O)(=O)O
reactant | water | O | H2O
reactant | 4-methoxybenzenesulfonylchloride | 20 mmol, 4.1 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | phenylmethyl 1-[N-(4-methoxybenzenesulfonyl)amino]cyclohexanecarboxylate | 4.36 g | COC1=CC=C(C=C1)S(=O)(=O)NC1(CCCCC1)C(=O)OCC1=CC=CC=C1 | C21H25NO5S
